US07514460B2
Intermediate 4: 6-Aminobenzothiazol-2-yl tert-butyl carbamate
6-Nitrobenzothiazol-2-yl tert-butyl carbamate (4.68 g, 15.8 mmol) was dissolved in dimethylformamide (120 mL) and palladium on charcoal (841 mg, 10% Pd, 0.79 mmol Pd) was added. The air was replaced with hydrogen (1 bar) and the mixture was vigorously stirred at 60° C. until completion of the reaction (2 h). The palladium was removed by filtration through a pad of celite and the solution was concentrated to 20 mL. Water (200 mL) was added. After stirring for 1 h, the precipitated 6-aminobenzothiazol-2-yl tert-butyl carbamate was filtered off and washed with water. Additional product was obtained by repeated filtration of the mother liquor. A total of 3.24 g (12.2 mmol, 77%) of a grey solid was obtained. LC/ESI-MS: m/z=266 [M+H]+; m/z=264 [M−H]−; Rt=2.54 min.

reactant | 6-Nitrobenzothiazol-2-yl tert-butyl carbamate | 15.8 mmol, 4.68 g | CC(C)(C)OC(=O)NC1=NC2=C(S1)C=C(C=C2)[N+](=O)[O-] | C12H13N3O4S
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 0.79 mmol, 841 mg | [Pd] | Pd
product | 6-Aminobenzothiazol-2-yl tert-butyl carbamate | 12.2 mmol, 3.24 g, 77% | CC(C)(C)OC(=O)NC1=NC2=C(S1)C=C(C=C2)N | C12H15N3O2S
